US07067517B2
3,3-Dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid
A solution of methyl-phenyl-carbamic acid 5-amino-pyridin-2-yl ester (243 mg, 1.00 mmol) and 3,3-dimethylglutaric anhydride (142 mg, 1.00 mmol) in dichloromethane (10 mL) was stirred at room temperature for 48 hours. Evaporation of the solvent yielded the title compound as a thick oil.

reactant | methyl-phenyl-carbamic acid 5-amino-pyridin-2-yl ester | 1.00 mmol, 243 mg | NC=1C=CC(=NC1)OC(N(C1=CC=CC=C1)C)=O | C13H13N3O2
reactant | 3,3-dimethylglutaric anhydride | 1.00 mmol, 142 mg | CC1(CC(=O)OC(C1)=O)C | C7H10O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3,3-Dimethyl-4-[6-(methyl-phenyl-carbamoyloxy)-pyridin-3-ylcarbamoyl]-butyric acid | CC(CC(=O)O)(CC(NC=1C=NC(=CC1)OC(N(C1=CC=CC=C1)C)=O)=O)C | C20H23N3O5
